US07714132B2
1a) 2,3,4,5-Tetrahydro-1H-pyrido[4,3-b]indole hydrochloride:
4-Piperidone monohydrate hydrochloride (10 g, 65.1 mmol) and phenylhydrazine hydrochloride (9.4 g, 65.1 mmol) are suspended in ethanol (200 ml) and stirred at reflux overnight. The resulting solid is filtered off and washed with diethyl ether to afford pure sub-title compound (11.9 g) in 88% yield. tR (LC-2) 0.89; ESI-MS (positive ion): m/z 173.34 [M+H]+ (calcd 172.23 for C11H12N2).

reactant | 4-Piperidone monohydrate hydrochloride | 65.1 mmol, 10 g | Cl.O.N1CCC(CC1)=O
reactant | phenylhydrazine hydrochloride | 65.1 mmol, 9.4 g | Cl.C1(=CC=CC=C1)NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2,3,4,5-Tetrahydro-1H-pyrido[4,3-b]indole hydrochloride | 11.9 g, 88% yield | Cl.C1NCCC=2NC=3C=CC=CC3C21 | InChI=1S/C11H12N2.ClH/c1-2-4-10-8(3-1)9-7-12-6-5-11(9)13-10;/h1-4,12-13H,5-7H2;1H
